US08252820B2
A. (2-Amino-4-methylphenyl)-methanol
To a solution of 2-amino-4-methylbenzoic acid (1.0 g, 6.62 mmol) in THF (10 mL) is added drop wise BH3 THF (1.0 M, 16.6 mL, 16.6 mmol) and the mixture is stirred at RT for 3 days. Excess BH3 is quenched with 1N HCl at 0° C. The solvent is evaporated to obtain a white solid. The solid is washed with water, and then hexane to remove the water. The solid is then dried in an oven to obtain the title compound).

reactant | 2-amino-4-methylbenzoic acid | 6.62 mmol, 1.0 g | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 16.6 mmol, 1.0 M, 16.6 mL | C1CCOC1 | C4H8O
product | (2-Amino-4-methylphenyl)-methanol | NC1=C(C=CC(=C1)C)CO | C8H11NO
